US07214673B2
(S)-2-[2-(4-Trifluoromethyl-phenyl)-ethyl]-piperazine
Combine (S)-1,4-dibenzyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-piperazine (3.34 g, 7.62 mmol), ammonium formate (2.40 g, 38.09 mmol), 5% Pd/C (368.7 mg), and ethanol (100 ml). Stir and heat the mixture at reflux. After 3 hrs, cool to ambient temperature and remove the catalyst by vacuum filtration through celite. Reduce the filtrate to residue and then dissolve it in dichloromethane. Wash the organic with 1N NaOH and then combine, wash (brine), dry (sodium sulfate), and reduce the extracts to residue to give 1.83 g (93%) of the title compound as an off-white solid: mp 135°–141°; mass spectrum (ion spray): m/z=259.2 (M+1).

reactant | (S)-1,4-dibenzyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-piperazine | 7.62 mmol, 3.34 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=CC=C(C=C1)C(F)(F)F | C27H29F3N2
reactant | ammonium formate | 38.09 mmol, 2.40 g | C(=O)[O-].[NH4+]
catalyst | Pd/C | 368.7 mg | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (S)-2-[2-(4-Trifluoromethyl-phenyl)-ethyl]-piperazine | 1.83 g, 93% | FC(C1=CC=C(C=C1)CC[C@@H]1NCCNC1)(F)F | C13H17F3N2
